data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,5617,"CCC=C(C)C(O[B:1](OC1CCCCC1)C1CCCCC1)C(C)C(=O)C(C)COCC1=CC=CC=C1.O[O-:2]|(2, 1)"
train,pmechdb_split_0,0,7726,"C1=CC=[N+:1]([H:2])C=C1.CC1=CC=C(S(=O)(=O)[O-])C=C1.CCCCNC1([OH:3])CCCC2=C(Br)C=NC=C21|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,616,"C[C:1](O)([OH:2])[SH2+:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,5160,"CCOC(=O)C1(C(=O)OCC)C(C)CCC(C#N)([C:1](OCC)=[NH2+:2])C1CC(C)=O.[Cl-].[OH2:3].[OH3+]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3849,"CC(=O)O[C:1](CCCC[O-:2])=[O:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,8426,"C[Si](C)(C)[O:1][CH2+:2]|(1, 2)"
train,pmechdb_split_0,0,4741,"CCN1CCC23C4=C5C=CC(OC)=C4OC2C(N=[N:1][H:2])CCC3(O)C1C5.[K+].[OH-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3706,"O.O=C1C[NH+](CC(=O)[O-:1])[Ca:2][O]1|(1, 2)"
train,pmechdb_split_0,0,8390,"CC[O+:1](CC=C(O)OC)[H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,552,"COC(=O)C1CC[C:1](=[C:2](OC)[O-:3])CC(C)C1[O:4][H:5]|(3, 2);((2, 1), 5);((5, 4), 4)"
train,pmechdb_split_0,0,5470,"C[NH2+]C(C)(C)[O-:1].[H:2][Cl:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,6559,"C1CCOC1.COC(=O)C1(C)CCCC2(C)C1CCCC2(O)[O:1]CCO.[Cl-].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7568,"C1=CC=CC=C1.CC(=O)CC[C:1](C)=[O:2].CC(=O)O.OCCOCC[NH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1405,"CCCCC[C:1]1=[C:2]([O:3]C)C=C[C:4](C[CH2:5][O:6]S(=O)(=O)C2=CC=C(C)C=C2)=[CH:7]1.O=CO|(3, 2);((2, 1), 7);((7, 4), 5);((5, 6), 6)"
train,pmechdb_split_0,0,5885,"CC(C)(C)C#[N+][O:1][Si-:2](C)(C)(C)OS(=O)(=O)C(F)(F)F.CC[NH+](CC)CC|((2, 1), 1)"
train,pmechdb_split_0,0,7644,"CCC(=O)O[C:1]1=[C:2](Br)[CH:3]=[CH:4]C=C1.[Br:5][Br:6]|((1, 2), 3);((3, 4), 5);((5, 6), 6)"
train,pmechdb_split_0,0,3292,"CS(=O)(=O)[O:1][CH:2]1CCC[CH:3]2[CH:4]([BH2-:5]O)CCC[C:6]21C.[Na+]|((5, 4), 3);((3, 6), 2);((2, 1), 1)"
train,pmechdb_split_0,0,882,"CO[C:1](C1=CC=CC=C1)=[O:2].C[O-].[Br][Mg:3][C:4]1=CC=CC=C1.[Mg+][Br]|((3, 4), 1);((1, 2), 2)"
train,pmechdb_split_0,0,6819,"C=[C+]C[Si:1](C)(C)C.C[O-:2]|(2, 1)"
train,pmechdb_split_0,0,189,"CC1(C)CCCC[CH:1]=[C:2]1C1=CC=CC=C1.[H:3][Cl:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,6509,"[Cl][Al-]([Cl])([Cl])[Cl+:1][C:2](OC1=CC=CC=C1)=[O:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4334,"CC(=O)O[Si-:1](C)(C)(C)[O+:2]=C(C)O|((1, 2), 2)"
train,pmechdb_split_0,0,1625,"CC(=O)C(CC(C1=CC=CC=C1)=[O:1])C(=O)OCC1=CC=CC=C1.O=S(=O)(C(F)(F)F)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,3336,"C1CO[C:1](=[O:2])OC1.[Cl-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,10028,"C1=CC=C(C[C:1]([N+]2=CC=C(N3CCCC3)C=C2)([O:2]C(=NC2CCCCC2)NC2CCCCC2)[O-:3])C=C1.CCOC(=O)CC=CCO|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6101,"CC(C)[O-].CC(C)[O][Al-]([O]C(C)C)([O:1][C:2]1([H:3])CCC(C2CCCCC2)CC1C1=CC=CC=C1)[O+:4]=[C:5](C)C|(1, 2);((2, 3), 5);((5, 4), 4)"
train,pmechdb_split_0,0,2870,"C[C:1](=[CH2:2])[O-:3].C[CH:4]=[O:5]|(3, 1);((1, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,8256,"CC(C)C1=NOC(N2CCC([CH2:1][O:2]S(C)(=O)=O)CC2)=N1.CSC1=CC=C(C2=CC=C([O-:3])C=C2)C=C1.O=C(O)[O][K].[K+]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2698,"COC1=CC(C(=CC2=CC(O)=C(OC)C=C2)C(=O)O[C:1](C)=[O:2])=CC(OC)=C1OC.[Cl-].[OH2:3].[OH3+]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4448,"C1=CC=[N:1]C=C1.COC1=CC=C(C2OCC3OC([O+:2](P(Br)(OC)(OC)OC)[H:3])C(C)C(C)C3O2)C=C1.[Br-]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,5690,"CC(=O)[O-:1].CCOC(=O)C1=C(COC)[NH+:2]=[C:3]2C=CC(O)=C[C:4]12[H:5].CCOC(C)=O.O|(1, 5);((5, 4), 3);((3, 2), 2)"
train,pmechdb_split_0,0,1047,"CC=C(O[B-:1](CCCC)(CCCC)[O:2]S(=O)(=O)C(F)(F)F)N1C(=O)OCC1CC1=CC=CC=C1.CC[NH+](CC)CC|((1, 2), 2)"
train,pmechdb_split_0,0,2551,"C1CCC([NH+]2CCOCC2)([O-:1])C1.CC1=CC=C(S(=O)(=O)[O:2][H:3])C=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,3762,"OCC=CCC1=C([N:1]=[N:2][OH2+:3])C=CC=C1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,4976,"NC=[O+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2150,"C=CCO[C:1](CC1=CC=CC=C1)([O-:2])[Cl:3].CC[NH+](CC)CC|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,2064,"COC1=C(O)C2=C(C=C1)CC1C3C[CH:1]([OH+:2]C)C(O)=CC23CCN1CC1CC1|((1, 2), 2)"
train,pmechdb_split_0,0,3954,"CCSC[CH:1]=[C:2](N)[OH:3].O=S(=O)(O)[O:4][H:5]|(3, 2);((2, 1), 5);((5, 4), 4)"
train,pmechdb_split_0,0,4192,"CSC(OC(=O)C(F)(F)F)C(OCC1=CC=CC=C1)C1OC(C)(C)OC1C(OCC1=CC=CC=C1)[CH-:1][S+:2](C)[O:3]C(=O)C(F)(F)F.O=C(O)C(F)(F)F|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,5264,"CCC1C[C:1]([O:2][H:3])=[NH+:4]C2=CC=CC=C21.CC[N:5](CC)CC|(5, 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,5420,"CC(=O)OC1C(C)OC(C2=CC=C(C)C=C2)([O:1]C)C(OC(C)=O)C1OC(C)=O.F[B:2](F)F|(1, 2)"
train,pmechdb_split_0,0,354,"CCCC(CCC)=[O+:1][AlH-:2]([CH2]C(C)C)[CH2]C(C)C|((2, 1), 1)"
train,pmechdb_split_0,0,4077,"C[Si](C)(C)[O+:1]1CC[O:2][CH:3]1C|(2, 3);((3, 1), 1)"
train,pmechdb_split_0,0,7406,"O=C(C=[C:1]([O-:2])[Cl:3])CC1=CC=CC=C1|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,2273,"CCO[C:1](C)=[OH+:2].[OH2:3]|(3, 1);((1, 2), 2)"
